US06906072B1
Example 77 1-[(4-cyano-5-methyl-4-(5-cyano-2-thienyl)hexyl]-4-[3-(5-cyano-2-thienyl)propyl]piperazine
In acetonitrile (3 ml) was dissolved 200 mg (0.56 mmol) of 4-cyano-5-methyl-4-(5-cyano-2-thienyl)hexyl iodide. To the mixture were added 78.0 μl (0.56 mmol) of triethylamine and 178 mg (0.76 mmol) of 1-[3-(5-cyano-2-thieny)propyl]piperazine, followed by stirring at 55° C. After 5 hours, the reaction solution was concentrated, and the residue was subjected to Cromatorex NH silica gel (ethyl acetate/hexane=1/2), to give 243 mg (0.52 mmol, 92.8%) of the title compound as a yellow syrup.

reactant | 4-cyano-5-methyl-4-(5-cyano-2-thienyl)hexyl iodide | 0.56 mmol, 200 mg | C(#N)C(CCCI)(C(C)C)C=1SC(=CC1)C#N | C13H15IN2S
reactant | triethylamine | 0.56 mmol, 78.0 μl | C(C)N(CC)CC | C6H15N
reactant | 1-[3-(5-cyano-2-thieny)propyl]piperazine | 0.76 mmol, 178 mg | C(#N)C1=CC=C(S1)CCCN1CCNCC1 | C12H17N3S
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (4-cyano-5-methyl-4-(5-cyano-2-thienyl)hexyl]-4-[3-(5-cyano-2-thienyl)propyl]piperazine | 0.52 mmol, 243 mg, 92.8% | C(#N)C(CCCN1CCN(CC1)CCCC=1SC(=CC1)C#N)(C(C)C)C=1SC(=CC1)C#N | C25H31N5S2
